US05312927
2-Phenyl-4-n-propylimidazole
A mixture consisting of 1.55 g of 2,2-dichloroisovaleraldehyde, 1.27 g of benzaldehyde, and 8 ml of acetonitrile was cooled in an ice-water, and to the mixture was added 13.5 ml of concentrated aqueous ammonia, and then the resulting mixture was stirred for 66 hours at room temperature. The product was extracted with methylene chloride, and the extract was washed with water, dried over anhydrous magnesium sulfate, and evaporated to yield a crude product. The crude product was chromatographed using 30 g of silica gels, thereby contaminants which were eluted with 5% acetonitrile/methylene chloride were removed, and fractions which were eluted with 50% acetonitrile/methylene chloride were collected. The collected fractions were evaporated to yield 1.24 g of the residue, which was recrystallized from methylene chloride/ether to yield 0.947 g of crystals (yield: 51%).

reactant | 2,2-dichloroisovaleraldehyde | 1.55 g | ClC(C=O)(C(C)C)Cl | C5H8Cl2O
reactant | benzaldehyde | 1.27 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonia | 13.5 ml | N | H3N
reactant | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 2-Phenyl-4-n-propylimidazole | 1.24 g | C1(=CC=CC=C1)C=1NC=C(N1)CCC | C12H14N2
